Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Desires gender affirmation
 
Major Surgical or Invasive Procedure:
s/p IUD removal, lysis of adhesions, total laparoscopic 
hysterectomy, bilateral salpingoophorectomy and cystoscopy 

 
History of Present Illness:
___ gravida 0 transgender man who goes by the name, 
___. He presents today for preoperative exam and consent 
signing.  I initially saw ___ on
___, when his medical history and treatment goals were 
reviewed.  We discussed options for gender aligning surgery.  We 
also discussed my recommendation for weight loss prior to 
surgery.  After the ___ visit, he weighed 306 pounds.  
Today he weighed in at 290 lbs.  I applauded him for his weight 
loss.  He will continue to attempt to decrease his weight 
further
by restricting sugar and carbohydrates. 

Of note, on ___, he had an ultrasound, which showed an 
anteverted uterus that measured 8.6 x 3.6 x 4.8 cm.  Endometrium 
was homogeneous and measured 6 mm.  The IUD was demonstrated 
satisfactorily positioned within the endometrial cavity.  The 
ovaries were normal.  Right ovary was best seen on 
transabdominal
approach and demonstrated an antral follicle count of 
approximately 8.  The left ovary demonstrated an antral follicle 
count of 18.  There was no free fluid. There has been no change 
in his OB/GYN, medical, operative, social, family history since 
his ___ visit.

 
Past Medical History:
OB/GYN HISTORY:  Menarche at 11.  He no longer has periods since
he has been on testosterone.  He has not had a period for 
several
years.  He denies any spotting.  Last Pap earlier this year and
was negative.  He has never had an abnormal Pap smear.  His
sexual orientation gay male.  He is currently sexually active,
first intercourse at 12.  He currently has two male partners and
he has been with them for a few months.  He uses condoms and
ParaGard IUD for fertility control.  Denies ever having a
pregnancy or sexually transmitted infections.

PAST MEDICAL HISTORY:  Obesity, carpal tunnel syndrome, hearing
loss, TMJ.

PAST SURGICAL HISTORY: Bilateral mastectomy
 
Social History:
___
Family History:
Mother with ___, hypercholesterolemia.  Father with 
hypertension, maternal grandmother with leukemia.  Maternal 
grandfather with ___.  Paternal grandmother with lupus.  
Paternal grandfather, lung cancer, negative for any female 
cancers.

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incisions 
c/d/i
Ext: no TTP
 
Pertinent Results:
N/A
 
Brief Hospital Course:
On ___, Mr. ___ was admitted to the gynecology service 
after undergoing an IUD removal, lysis of adhesions, total 
laparoscopic hysterectomy,bilateral salpingectomy, and 
cystoscopy. Please see the operative report for full details.

His post-operative course was uncomplicated. Immediately 
post-op, his pain was controlled with IV dilaudid and toradol. 
His diet was advanced without difficulty and she was 
transitioned to PO oxycodone, Tylenol and ibuprofen. On 
post-operative day 0, his urine output was adequate so her foley 
was removed and he voided spontaneously. 

By post-operative day 1, he was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. He was then discharged home in 
stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Citalopram
Metformin
Testosterone
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
2. Citalopram 30 mg PO DAILY 
3. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0
4. MetFORMIN (Glucophage) 500 mg PO DAILY 
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gender affirmation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___